US07262201B1
3-Cyclopentylpropionyl chloride (0.64 ml, 4.16 mmol) was added to a solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (500 mg, 3.47 mmol) in anhydrous methylene chloride (10 ml). After cooling to 0° C., pyridine (0.56 ml, 6.94 mmol) was added in portions. After stirring for 1 hour at 0° C. and 2 hours at ambient temperature the mixture was poured onto water (20 ml) containing concentrated hydrochloric acid (0.5 ml). The organic layer was separated, washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation to give 5-(3-cyclopentylpropionyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (900 mg, 96%).

reactant | 3-Cyclopentylpropionyl chloride | 4.16 mmol, 0.64 ml | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 3.47 mmol, 500 mg | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 6.94 mmol, 0.56 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(3-cyclopentylpropionyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 900 mg, 96% | C1(CCCC1)CCC(=O)C1C(OC(OC1=O)(C)C)=O | C14H20O5
